US07807709B2
c. 2-Chloro-4-methoxy-5-(3-methoxy-propoxy)-benzoic acid
To a solution of 2-chloro-4-methoxy-5-(3-methoxy-propoxy)-benzaldehyde (1.08 g, 3.55 mmol) in a 3:1 mixture of tert-butanol/CH2Cl2 (20 mL) is added 2-methyl-2-butene (0.74 g, 5.32 mmol), followed by dropwise addition of a solution of NaClO2 (0.67g, 7.10 mmol) and NaH2PO4 (0.67 g, 4.26 mmol) in water (14 mL) over 15 min at room temperature, and stirring is continued overnight. The reaction mixture is poured into ice/saturated aqueous NaHCO3 solution, the water phase is washed with AcOEt. The ice-cold aqueous layer is acidified with HCl 37% to form a white precipitate which is filtered off, washed with ice-cold water and dried in vacuo. The compound is obtained as white solid. MS: 273.0 [M−H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 3.25 min. 1H-NMR (CDCl3): δ 1.96 (m, 2H), 3.25 (s, 3H), 3.47 (m, 2H), 3.85 (s, 3H), 4.03 (m, 2H), 7.10 (s, 1H), 7.39 (s, 1H) ppm.

reactant | 2-chloro-4-methoxy-5-(3-methoxy-propoxy)-benzaldehyde | 3.55 mmol, 1.08 g | ClC1=C(C=O)C=C(C(=C1)OC)OCCCOC | C12H15ClO4
reactant | tert-butanol CH2Cl2 | 20 mL | C(C)(C)(C)O.C(Cl)Cl
reactant | 2-methyl-2-butene | 5.32 mmol, 0.74 g | CC(C)=CC | C5H10
reactant | NaClO2 | 7.10 mmol, 0.67g | [O-]Cl=O.[Na+]
solvent | water | 14 mL | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | CH3CN H2O | CC#N.O
product | 2-Chloro-4-methoxy-5-(3-methoxy-propoxy)-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)OC)OCCCOC | C12H15ClO5
